US05418232
(±)-3-Isobutyl-3,4-diazabicyclo[4.1.0]heptane-2,5-dione
To 40 ml of ethyl alcohol was added 2.03 g (11.28 mmol) of (±)-3-(2-methyl-2-propen-1-yl)-3,4-diazabicyclo[4.1.0]heptane-2,5-dione obtained in Reference Example 23, and 230 mg of a 5% (w/w) palladium-on-carbon catalyst was added thereto to conduct catalytic reduction under normal pressure. After completion of the reaction, the catalyst was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate/hexane to obtain 1.6 g (80%) of the titled compound.

reactant | (±)-3-(2-methyl-2-propen-1-yl)-3,4-diazabicyclo[4.1.0]heptane-2,5-dione | 11.28 mmol, 2.03 g | CC(CN1C(C2CC2C(N1)=O)=O)=C | C9H12N2O2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethyl alcohol | 40 ml | C(C)O | C2H6O
product | (±)-3-Isobutyl-3,4-diazabicyclo[4.1.0]heptane-2,5-dione | 1.6 g, 80% | C(C(C)C)N1C(C2CC2C(N1)=O)=O | C9H14N2O2
